US05852011
In a reactor, 300 mg (1.1 mmol) of 2-methyl-4-[N,N-bis(2-chloroethyl)amino]nitrobenzene were dissolved in a mixed solvent of 5 ml of methanol and 2 ml of tetrahydrofuran, followed by the addition of 200 mg of 10% Pd/C under a nitrogen gas atmosphere. The reactor was purged with hydrogen gas, followed by stirring at room temperature for one hour. After completion of the reaction, the reactor was purged with nitrogen gas, followed by stirring for 30 minutes. The 10% Pd/C was then filtered off. To the thus-obtained methanol solution, 400 μl of a solution of 4N hydrochloric acid/dioxane were added, whereby 2-methyl-4-[N,N-bis(2-chloroethyl)amino]aniline hydrochloride was obtained. In 10 ml of DMF, 309 mg (1.1 mmol) of 1H-2-(1-methyl-4-nitropyrrol-2-yl)benzimidazole-5-carboxylic acid and the 2-methyl-4-[N,N-bis(2-chloroethyl)amino]aniline hydrochloride obtained above were dissolved, followed by cooling to 0° C. Under a nitrogen gas atmosphere, 330 μl (2.4 mmol) of triethylamine and then 197 μl (1.3 mmol) of DECP were added to the resultant solution, followed by stirring for 20 minutes as was. Stirring was conducted for further 15 minutes at room temperature. The reaction mixture was then allowed to stand overnight. The solvent was distilled out under reduced pressure. The residue so obtained was purified by chromatography on a silica gel column (ethyl acetate/n-hexane=1/1), whereby 329 mg of yellow powder were obtained (yield: 59%).

reactant | 2-methyl-4-[N,N-bis(2-chloroethyl)amino]nitrobenzene | 1.1 mmol, 300 mg | CC1=C(C=CC(=C1)N(CCCl)CCCl)[N+](=O)[O-] | C11H14Cl2N2O2
solvent | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 2-methyl-4-[N,N-bis(2-chloroethyl)amino]aniline hydrochloride | Cl.CC1=C(N)C=CC(=C1)N(CCCl)CCCl | InChI=1S/C11H16Cl2N2.ClH/c1-9-8-10(2-3-11(9)14)15(6-4-12)7-5-13;/h2-3,8H,4-7,14H2,1H3;1H
